US07671056B2
1) 8-Chloro-6-hydroxyquinoline
In a 500 ml 3-necked flask equipped with a mechanical stirrer, a reflux condenser, were added in order ferrous sulfate (2.0 g), 4-amino-3-chlorophenol hydrochloride (6.4 g, commercially available), nitrobenzene (2.9 mL) and a solution of boric acid (3.0 g) in glycerol (16 g). Then concentrated sulfuric acid (9 mL) was added drop by drop with cooling. The ice bath was removed and replaced by an oil bath and the mixture was heated cautiously to 120° C. for 2 hours, then at 150° C. and kept stirring under this temperature for 20 hours. After cooling, the reaction was poured on crushed ice and the resulting solution was neutralized with K2CO3. The product separated as a light brown solid that was filtered off, washed with water and hexanes and dried in a vacuum oven (35° C.) overnight giving 7 g (77%) of the desired product. MS (ES) m/z (relative intensity): 180 (M++−H, 100).

reactant | 4-amino-3-chlorophenol hydrochloride | Cl.NC1=C(C=C(C=C1)O)Cl
reactant | nitrobenzene | 2.9 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | boric acid | 3.0 g | B(O)(O)O | BH3O3
reactant | sulfuric acid | 9 mL | S(O)(O)(=O)=O | H2O4S
solvent | glycerol | 16 g | OCC(O)CO | C3H8O3
product | 8-Chloro-6-hydroxyquinoline | 7 g, 77% | ClC=1C=C(C=C2C=CC=NC12)O | C9H6ClNO
